US04282365
Step E: 6,11-Dihydro-3-isopropyl-11-oxodibenz[b.e]oxepin-9-carboxylic Acid
Reflux a mixture of 2.8 gm. (0.010 mole) of 6,11-dihydro-3-isopropyl-11-oxodibenz[b.e]oxepin-9-carbonitrile, 50 ml. of acetic acid, 5 ml. of water and 5 ml. of concentrated hydrochloric acid for 140 hours. Cool the reaction mixture, separate the solids by filtration and dry. (yield 2.07 gm., m.p. 202°-204° C.). Recrystallize from toluene to obtain the title product (m.p. 203°-204.5° C.).

reactant | 6,11-dihydro-3-isopropyl-11-oxodibenz[b.e]oxepin-9-carbonitrile | 0.010 mole | C(C)(C)C=1C=CC2=C(OCC3=C(C2=O)C=C(C=C3)C#N)C1 | C18H15NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 6,11-Dihydro-3-isopropyl-11-oxodibenz[b.e]oxepin-9-carboxylic Acid | C(C)(C)C=1C=CC2=C(OCC3=C(C2=O)C=C(C=C3)C(=O)O)C1 | C18H16O4
